US07226930B2
3,4-Dihydroxybenzaldehyde (20 g, 145 mmol), chlorodifluoroacetic acid sodium salt (55.19 g, 362 mmol) and sodium hydroxide (5.50 g, 138 mmol) were stirred in DMF (1200 mL) at 55° C. under nitrogen for 16 hours. The pH was adjusted to 1.0 by the addition of 10% aqueous HCl followed by extraction with ethyl acetate (3×500 mL). The combined extracts were evaporated under vacuum. The residue was purified on silica gel using a 10-20% ethyl acetate/hexane gradient. 4-difluoromethoxy-3-hydroxybenzaldehyde was isolated in 24% yield (6.62 g). 1H NMR (CDCl3, 400 MHz) δ 6.1 (br s, 1H), 6.48-6.85 (t, 1H OCHF2), 7.26 (d, 1H), 7.44 (d, 1H), 7.55 (s, 1H), 9.91 (s, 1H).

reactant | 3,4-Dihydroxybenzaldehyde | 145 mmol, 20 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | chlorodifluoroacetic acid sodium salt | 362 mmol, 55.19 g | [Na+].ClC(C(=O)[O-])(F)F
reactant | sodium hydroxide | 138 mmol, 5.50 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 1200 mL | CN(C)C=O | C3H7NO
product | 4-difluoromethoxy-3-hydroxybenzaldehyde | 24% yield | FC(OC1=C(C=C(C=O)C=C1)O)F | C8H6F2O3
